US07001897B2
(2) (1R,5S,6S)-2-{1-[4-((2-aminoethyl)carbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid
p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[(2-(p-nitrobenzyloxycarbonylamino)ethyl)carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (328.4 mg, 0.42 mmol) (obtained as described in Example 61(1)) in a mixture of tetrahydrofuran (16.4 ml) and distilled water (8.2 ml) was subjected to catalytic hydrogenation in the presence of 20% palladium hydroxide on charcoal (328.4 mg) in a water bath (30° C.) for 2 hours. After checking the completion of the reaction, the reaction mixture was filtered and to the filtrate were added ethyl acetate-tetrahydrofuran (1:1) and distilled water. The mixture was shaken in a separatory funnel. The aqueous layer was separated, washed with the above-mentioned mixed solvent, and concentrated under reduced pressure. The residue was purified by chromatography on a Cosmosil column (eluant: distilled water→5% acetonitrile in distilled water→10% acetonitrile in distilled water→15% acetonitrile in distilled water) and the eluate was lyophilized to afford the desired compound (1R,5S,6S)-2-{1-[4-((2-aminoethyl)carbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid (96.4 mg, yield 49%) as a white solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-(1-{4-[(2-(p-nitrobenzyloxycarbonylamino)ethyl)carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.42 mmol, 328.4 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCCNC(=O)C=2N=C(SC2)N2CC(C2)SC=2[C@@H]([C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)C=C1 | C34H35N7O11S2
solvent | tetrahydrofuran | 16.4 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-{1-[4-((2-aminoethyl)carbamoyl)-1,3-thiazol-2-yl]azetidin-3-yl}thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid | 96.4 mg, yield 49% | NCCNC(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C | C19H25N5O5S2
